US09029399B2
Preparation of Intermediate 1-(3-trifluoromethyl-phenyl)-imidazolidin-2-one (I-36b)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(2-chloro-ethyl)-3-(3-trifluoromethyl-phenyl)-urea (I-36a: 3.2 g, 12.02 mmol) was reacted with sodium hydride (870 mg, 18.03 mmol) in dry THF (35 mL to give 2.9 g of product (95%)

reactant | 1-(2-chloro-ethyl)-3-(3-trifluoromethyl-phenyl)-urea | 12.02 mmol, 3.2 g | ClCCNC(=O)NC1=CC(=CC=C1)C(F)(F)F | C10H10ClF3N2O
reactant | sodium hydride | 18.03 mmol, 870 mg | [H-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 1-(3-trifluoromethyl-phenyl)-imidazolidin-2-one | 2.9 g, 95% | FC(C=1C=C(C=CC1)N1C(NCC1)=O)(F)F | C10H9F3N2O
